US05475148
To a suitable reaction vessel equipment with a thermometer and mechanical stirrer was introduced 24 g 2,6-dinitro-3,4-dimethylanisole 94% (0.1 moles), 0.55 g CaCl2 (0.005 moles), and 43.5 g of (0.5 moles) 1-ethyl propylamine. The reaction mixture was stirred at a temperature of 25°-30° C. The progress of the reaction was followed by periodically withdrawing samples and analyzing for starting product and the new product formed. During 24 hours the starting product disappeared and the N-(1-ethylpropyl)-3,4-dimethyl-2,6-dinitroaniline is gradually formed. After completion of the reaction as indicated by vapor phase chromatography, the excess of 1-ethyl-propylamine was recovered from the reaction mixture by distillation. The residue was dissolved in dichloromethane and the solution was successively washed with 5% aqueous hydrochloric acid, 5% aqueous sodium hydroxide and then by water to neutral and dried. The solvent is next recovered by distillation leaving an oily product which solidified. (25.2 g 96.6%) with a yield of 86.6 %.

reactant | 2,6-dinitro-3,4-dimethylanisole | 0.1 moles, 24 g | [N+](=O)([O-])C1=C(C(=CC(=C1C)C)[N+](=O)[O-])OC | C9H10N2O5
reactant | CaCl2 | 0.005 moles, 0.55 g | [Cl-].[Cl-].[Ca+2]
reactant | 1-ethyl propylamine | 0.5 moles, 43.5 g | C(C)C(CC)N | C5H13N
product | N-(1-ethylpropyl)-3,4-dimethyl-2,6-dinitroaniline | yield of 86.6 % | C(C)C(CC)NC1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-] | C13H19N3O4
